* Schematics Netlist *



V_V5         $N_0001 0 5V
V_V4         $N_0002 0 4V
V_V3         $N_0003 0 3V
V_V2         $N_0004 0 2V
V_V1         $N_0005 0 1V
V_V6         $N_0006 0 6V
R_R7         $N_0006 Be+  1k  
R_R6         $N_0001 Be+  1k  
R_R5         $N_0002 Be+  1k  
R_R3         $N_0004 $N_0007  1k  
R_R2         $N_0005 $N_0007  1k  
X_U1A         Be+ $N_0007 $N_0008 $N_0009 Ki LM324
V_V8         0 $N_0009 25V
V_V7         $N_0008 0 25V
R_R1         $N_0007 Ki  1k  
R_R8         0 Be+  1k  
R_R4         $N_0003 $N_0007  1k  
