* Schematics Netlist *



V_V1         $N_0001 0 10V
V_V2         0 $N_0002 10V
X_U1A         0 $N_0003 $N_0001 $N_0002 integ LM324
R_R3         $N_0004 Be  1k  
V_V3         $N_0005 0 10V
V_V4         0 $N_0006 10V
X_U2A         0 $N_0007 $N_0005 $N_0006 Der LM324
R_R4         Der $N_0007  51k  
C_C2         $N_0004 $N_0007  100n  
R_R1         Be $N_0003  51k  
C_C1         $N_0003 integ  100n  
R_R2         $N_0003 integ  1Meg  
V_V6         Be 0 DC 0 AC 0
+PULSE 2 -2 0 1n 1n 10m 20m
