* Schematics Netlist *



R_R3         $N_0002 $N_0001  1k  
V_V1         $N_0003 0 5V
V_V2         0 $N_0002 5V
R_R1         $N_0004 $N_0003  1k  
Q_Q1         $N_0004 Ube1 $N_0001 Q2N2222
R_R2         $N_0005 $N_0003  1k  
Q_Q2         $N_0005 Ube2 $N_0001 Q2N2222
V_V5         $N_0006 0 DC 0 AC 0
+SIN 0 50mv 1k 0 0 0
V_V4         $N_0007 $N_0006 DC 0 AC 0
+SIN 0 50mv 10k 0 0 0
V_V6         $N_0007 Ube1 DC 0 AC 0
+SIN 0 50mv 20khz 0 0 0
V_V3         Ube2 0 DC 0 AC 0
+SIN 0 150mv 1k 0 0 0
