* Schematics Netlist *



R_R3         $N_0002 $N_0001  1k  
R_R1         $N_0003 0  1k  
X_U1A         0 $N_0001 $N_0004 $N_0005 $N_0003 LM324
V_V4         $N_0002 0 DC 0 AC 0
+SIN 0 100m 1k 0 0 0
R_R2         $N_0001 $N_0003  2k  
V_V1         $N_0004 0 5V
V_V2         0 $N_0005 5V
